US04490527
N-[3-[3-[(1-piperidinyl)methyl]phenoxy]propyl]-1,2-benzisothiazol-3-amine 1,1-dioxide
To a gently refluxing solution of 3-[3-[(1-piperidinyl)-methyl]phenoxy]propylamine (992 mg, 4 mmol) in 90 ml of chloroform is added dropwise a solution of 880 mg (4.4 mmol) of 3-chlorobenzisothiazole 1, 1-dioxide in 30 ml of chloroform. Following the addition, the reaction mixture is refluxed for an additional 15 min., cooled to room temperature and solvent removed in vacuo. Column chromatography of the resultant residue (foam) on silica gel utilizing methylene chloride:methanol:ammonium hydroxide (90:10:1) as eluting solvent affords after evaporation a white solid. The crude product is suspended in ethyl acetate, filtered and dried to give 620 mg (37.5%) of the title compound, m.p., 138°-140° C.

reactant | 3-[3-[(1-piperidinyl)-methyl]phenoxy]propylamine | 4 mmol, 992 mg | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | 3-chlorobenzisothiazole 1, 1-dioxide | 4.4 mmol, 880 mg | ClC1=NS(C2=C1C=CC=C2)(=O)=O | C7H4ClNO2S
solvent | chloroform | 90 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[3-[3-[(1-piperidinyl)methyl]phenoxy]propyl]-1,2-benzisothiazol-3-amine 1,1-dioxide | 620 mg, 37.5% | N1(CCCCC1)CC=1C=C(OCCCNC2=NS(C3=C2C=CC=C3)(=O)=O)C=CC1 | C22H27N3O3S
